US07323567B2
d) Diethyl [3,4-diamino-2-(methoxycarbonyl)phenyl]malonate
A mixture of diethyl [3-amino-2-(methoxycarbonyl)-4-nitrophenyl]malonate (4.80 g, 13.6 mmol), 10% Pd/C (0.72 g) in MeOH (70 mL) and EtOAc (70 mL) was stirred under H2 atmosphere (balloon) at room temperature for 21 h. The catalyst was removed by filtration through diatomaceous earth. The cake was washed with EtOAc and the filtrate was concentrated to give the title compound (4.39 g, 100% yield) as a brown solid.

reactant | diethyl [3-amino-2-(methoxycarbonyl)-4-nitrophenyl]malonate | 13.6 mmol, 4.80 g | NC=1C(=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC)C(=O)OC | C15H18N2O8
solvent | MeOH | 70 mL | CO | CH4O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.72 g | [Pd] | Pd
product | Diethyl [3,4-diamino-2-(methoxycarbonyl)phenyl]malonate | 4.39 g, 100% yield | NC=1C(=C(C=CC1N)C(C(=O)OCC)C(=O)OCC)C(=O)OC | C15H20N2O6
